US04415572
A mixture of 23 g of 7-amino-3,4-dihydrocarbostyril, 48 g of bis(β-bromoethyl)amine hydrobromide and 200 ml of methanol was refluxed with stirring for 8 hours. After cooling to room temperature, 7.52 g of sodium carbonate was added to the mixture followed by refluxing while stirring for additional 8 hours. After distilling off methanol under reduced pressure, isopropanol was added to the residue. After cooling, crystals which precipitated were collected by filtration and recrystallized from ethanol 3 times to give 15 g of 7-(1-piperazinyl)-3,4-dihydrocarbostyril hydrobromide, m.p. 174°-177° C., colorless granules.

reactant | 7-amino-3,4-dihydrocarbostyril | 23 g | NC1=CC=C2CCC(NC2=C1)=O | C9H10N2O
reactant | bis(β-bromoethyl)amine hydrobromide | 48 g | Br.BrCCNCCBr
reactant | sodium carbonate | 7.52 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 7-(1-piperazinyl)-3,4-dihydrocarbostyril hydrobromide | 15 g | Br.N1(CCNCC1)C1=CC=C2CCC(NC2=C1)=O | InChI=1S/C13H17N3O.BrH/c17-13-4-2-10-1-3-11(9-12(10)15-13)16-7-5-14-6-8-16;/h1,3,9,14H,2,4-8H2,(H,15,17);1H
